US07371747B2
Synthesis of trans-N-cyanomethyl-2-[4-(2-phenylethylsulfanyl)-benzenesulfonylmethyl]-cyclohexanecarboxamide
A mixture of trans-N-cyanomethyl-2-(4-methylsulfanylbenzenesulfonylmethyl)-cyclohexanecarboxamide (0.1 g, 0.298 mmol), phenethyl mercaptan (0.103 mL, 0.764 mmol) and cesium carbonate (0.25 g, 0.764 mmol) was dissolved in dimethylformamide (1.5 mL) and heated at 100° C. for 4 h. The reaction mixture was diluted with ethyl acetate (30 mL), filtered through Celite, evaporated to dryness, and purified on a short plug of silica gel (2040% ethyl acetate/CHCl3), yielding the desired product. NMR (DMSO-d6): 1.1 (3H, m); 1.3 (1H, m) 1.6-1.7 (3H, m); 2.03 (2H, m); 2.16 (1H, d): 2.92 (3H, m); 3.15 (1H, dd); 3.36 (2H, m); 4.03 (2H, d); 7.1 (1H, d); 7.25 (4H, m); 7.47 (2H, d); 7.68 (2H, d); 8.56 (1H, t). MS [ESI, (M+Na)+] m/z=479 amu.

reactant | trans-N-cyanomethyl-2-(4-methylsulfanylbenzenesulfonylmethyl)-cyclohexanecarboxamide | 0.298 mmol, 0.1 g | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(C=C1)SC | C17H22N2O3S2
reactant | phenethyl mercaptan | 0.764 mmol, 0.103 mL | C(CC1=CC=CC=C1)S | C8H10S
reactant | cesium carbonate | 0.764 mmol, 0.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | trans-N-cyanomethyl-2-[4-(2-phenylethylsulfanyl)-benzenesulfonylmethyl]-cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(C=C1)SCCC1=CC=CC=C1 | C24H28N2O3S2
